US06180622B2
f) (3S,5R)-1-Allyloxycarbonyl-3-benzoylthio-5-(imidazo[5,1-b]thiazol-7-yl)methylpyrrolidine
A solution of 134 mg of (3R,5R)-1-allyloxycarbonyl-3-hydroxy-5-(imidazo[5,1-b]thiazol-7-yl)methylpyrrolidine in 8 ml of THF is ice-cooled. Triphenylphosphine (228 mg) and 0.139 ml of diethyl azodicarboxylate are added in an argon atmosphere. The mixture is stirred at that temperature for 1.5 hr, 0.104 ml of thiobenzoic acid is added thereto, and the mixture is stirred at that temperature for 20 min and then at room temperature for 3 hr. The reaction solution is diluted with 30 ml of ethyl acetate, saline is added thereto, the mixture is adjusted to pH 9 by addition of a saturated aqueous sodium hydrogencarbonate solution, and the organic layer is separated. The organic layer is dried over anhydrous magnesium sulfate and filtered, and the solvent is removed by evaporation under reduced pressure. The residue is purified by column chromatography on silica gel (toluene:ethyl acetate=1:1→chloroform:ethyl acetate 2:1) to give 147 mg of the title compound.

reactant | (3R,5R)-1-allyloxycarbonyl-3-hydroxy-5-(imidazo[5,1-b]thiazol-7-yl)methylpyrrolidine | 134 mg | C(C=C)OC(=O)N1C[C@@H](C[C@H]1CC=1N=CN2C1SC=C2)O | C14H17N3O3S
reactant | Triphenylphosphine | 228 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.139 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | thiobenzoic acid | 0.104 ml | C(C1=CC=CC=C1)(=S)O | C7H6OS
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | THF | 8 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | (3S,5R)-1-Allyloxycarbonyl-3-benzoylthio-5-(imidazo[5,1-b]thiazol-7-yl)methylpyrrolidine | 147 mg | C(C=C)OC(=O)N1C[C@H](C[C@H]1CC=1N=CN2C1SC=C2)SC(C2=CC=CC=C2)=O | C21H21N3O3S2
